US07329662B2
5-(4-Chloro-phenyl)-3-(2,6-dimethyl-pyridin-4-yl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine
Reaction of 1-(4-chloro-phenyl)-4,4,4-trifluoro-butane-1,3-dione (125 mg, 0.5 mmol), prepared from commercially available 4-chloro-acetophenone according to general procedure A, and 3-amino-4-(2,6-dimethyl-4-pyridinyl)-pyrazole [prepared from 4-cyanomethyl-2,6-dimethyl-pyridine, CAS No. 130138-46-4, see part synthesis of amino-pyrazole derivatives] (94 mg, 0.5 mmol) according to general procedure B yielded the title compound as a yellow solid (95 mg, 47%). MS (ISP) 403.2 [(M+H)+]; mp 256° C.

reactant | 1-(4-chloro-phenyl)-4,4,4-trifluoro-butane-1,3-dione | 0.5 mmol, 125 mg | ClC1=CC=C(C=C1)C(CC(C(F)(F)F)=O)=O | C10H6ClF3O2
reactant | 3-amino-4-(2,6-dimethyl-4-pyridinyl)-pyrazole | 0.5 mmol, 94 mg | NC1=NNC=C1C1=CC(=NC(=C1)C)C | C10H12N4
product | 5-(4-Chloro-phenyl)-3-(2,6-dimethyl-pyridin-4-yl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine | 95 mg, 47% | ClC1=CC=C(C=C1)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C2=CC(=NC(=C2)C)C | C20H14ClF3N4
